simulator lang=spectre
global 0

ahdl_include "agc_receiver_leveling_loop.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=2n width=1n rise=50p fall=50p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 80n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.45 8n 0.52 21.9n 0.52 22n 0.78 55.9n 0.78 56n 0.55 80n 0.55]

XDUT (clk rst vin out metric gain_mon rssi_mon) agc_receiver_leveling_loop

tran tran stop=80n maxstep=0.5n
save clk rst vin out metric gain_mon rssi_mon
