simulator lang=spectre
global 0

ahdl_include "file_metric_writer.va"

Vin (vin 0) vsource type=pwl wave=[0 0 30n 0 31n 0.9 90n 0.9]

XDUT (vin done) file_metric_writer filename="metric.out"

tran tran stop=90n maxstep=500p
save vin done
